US04410520
A solution of 3,3-dichloro-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (20 g, 0.174 mol) and anhydrous sodium acetate (15.4 g, 0.188 mol) in glacial acetic acid (920 ml) was hydrogenated at atmospheric pressure using 5% Pd-C (1.72 g) as catalyst until the uptake of hydrogen ceased. The catalyst was filtered off and the acetic acid evaporated under reduced pressure. The residue was equilibrated between 10% (NaHCO3 (900 ml) and dichloromethane (300 ml). The aqueous layer (pH 8) was further extracted with dichloromethane (3×300 ml) and the combined organic solutions were dried over anhydrous sodium sulfate and evaporated to give 3-chloro-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 163°-167°.

reactant | 3,3-dichloro-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.174 mol, 20 g | ClC1(C(NC2=C(CC1)C=CC=C2)=O)Cl | C10H9Cl2NO
reactant | sodium acetate | 0.188 mol, 15.4 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 920 ml | C(C)(=O)O | C2H4O2
catalyst | Pd-C | 1.72 g | [Pd] | Pd
product | 3-chloro-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | ClC1C(NC2=C(CC1)C=CC=C2)=O | C10H10ClNO
